US05654307
A mixture of 7-amino-4-(3-bromoanilino)pyrido[4,3-d]pyrimidine (0.154 g, 0.49 mmol), acetic anhydride (0.14 mL, 1.5 mmol), triethylamine (0.14 mL, 1.0 mmol) and a catalytic amount of 4-(N,N-dimethylamino)pyridine are stirred under N2 at room temperature for 18 h. The reaction is then quenched by addition of ice water. The dark precipitate is collected by Buchner filtration and is purified by preparative tlc (Rf=0.25, 7% MeOH/CHCl3). Recrystallization from EtOH gives 7-acetylamino-4-(3-bromoanilino)pyrido[4,3-d]-pyrimidine (13.5 mg, 7.7%). 1H NMR (DMSO) δ 10.92 (1H, s), 10.22 (1H, s), 9.64 (1H, s), 8.70 (1H, s), 8.28 (1H, s), 8.21 (1H, s), 7.88 (1H, d, J=7.7 Hz) 7.41-7.34 (3H, m), 2.16 (3H, s).

reactant | 7-amino-4-(3-bromoanilino)pyrido[4,3-d]pyrimidine | 0.49 mmol, 0.154 g | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)Br | C13H10BrN5
reactant | acetic anhydride | 1.5 mmol, 0.14 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 7-acetylamino-4-(3-bromoanilino)pyrido[4,3-d]-pyrimidine | 13.5 mg, 7.7% | C(C)(=O)NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)Br | C15H12BrN5O
